US04659727
A solution of 2-aminopyridine (1.05 g) and 2-methoxy-1-phenyl-1-phenylsulphonylethene (2.0 g) in a mixture of anhydrous dimethylacetamide (50 ml) and a solution of hydrogen chloride in diethyl ether (6N; 0.5 ml) was heated at reflux for 25 hours, and then it was cooled and poured onto ice (150 g). The yellow precipitate was filtered off, subjected twice to medium pressure chromatography on silica gel, eluting with chloroform, triturated with light petroleum ether (b.p. 60°-80° C.) and recrystallised from a mixture of diethyl ether and light petroleum ether (b.p. 60°-80° C.), to give 1-phenyl-1-phenylsulphonyl-2-(pyrid-2-ylamino)ethene (0.3 g), m.p. 159°-160° C.

reactant | 2-aminopyridine | 1.05 g | NC1=NC=CC=C1 | C5H6N2
reactant | 2-methoxy-1-phenyl-1-phenylsulphonylethene | 2.0 g | COC=C(S(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C15H14O3S
reactant | dimethylacetamide | 50 ml | CC(=O)N(C)C | C4H9NO
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 6N, 0.5 ml | C(C)OCC | C4H10O
product | 1-phenyl-1-phenylsulphonyl-2-(pyrid-2-ylamino)ethene | 0.3 g | C1(=CC=CC=C1)C(=CNC1=NC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C19H16N2O2S
